US05928999
3-(3-Acetoxymethyl-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.148)
A solution of 6.8 g (18 mmol) of 3-(3-bromomethyl-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole and 1.5 g (18 mmol) of sodium acetate in 20 ml of dimethylformamide was stirred overnight and then stirred into 100 ml of cold water. The product was extracted from the aqueous phase using ethyl acetate. The ethyl acetate phase was dried over magneisum sulfate and concentrated. The crude product thus obtained was purified by silica gel chromatography (eluent: hexane/ethyl acetate=9:1). Yield: 4.7 g.

reactant | 3-(3-bromomethyl-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | 18 mmol, 6.8 g | BrCC=1C=C(C=CC1Cl)C1=NN(C(=C1Cl)OC(F)F)C | C12H9BrCl2F2N2O
reactant | sodium acetate | 18 mmol, 1.5 g | C(C)(=O)[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(3-Acetoxymethyl-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | C(C)(=O)OCC=1C=C(C=CC1Cl)C1=NN(C(=C1Cl)OC(F)F)C | C14H12Cl2F2N2O3
